US04543214
1265 parts by weight of 2-nitroanthraquinone are reacted at 270° C. with elemental bromine in the presence of 60 parts by weight of nitrobenzene in a laboratory apparatus as described in Example 1. When the reaction is complete, the melt is discharged into 2,000 parts by weight of vigorously stirred methanol at 200° C. The suspension so obtained is refluxed for 1 hour, cooled to 50° C., filtered and dried, affording 1390 g of 2-bromoanthraquinone (97% yield) in 98% purity.

reactant | 2-nitroanthraquinone | [N+](=O)([O-])C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7NO4
reactant | bromine | BrBr | Br2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methanol | CO | CH4O
product | 2-bromoanthraquinone | 1390 g, 97% yield | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7BrO2
